US07820704B2
4-(4-Isopropyl-phenyl)-thiazol-2-yl amine (90 mg, 0.41 mmol) was acylated in CH2Cl2 using cyclobutane carbonyl chloride (60 μL, 0.52 mmol, 1.25 eq.) in the presence of excess pyridine. The reaction was quenched with sat. NH4Cl, extracted with EtOAc and dried over MgSO4. Purification by silica gel chromatography (10% EtOAc in hexanes) afforded 95 mg (80%) of cyclobutanecarboxylic acid [4-(4-isopropyl-phenyl)-thiazol-2-yl]-amide.

reactant | 4-(4-Isopropyl-phenyl)-thiazol-2-yl amine | 0.41 mmol, 90 mg | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N | C12H14N2S
reactant | cyclobutane carbonyl chloride | 0.52 mmol, 60 μL, 1.25 eq. | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | cyclobutanecarboxylic acid [4-(4-isopropyl-phenyl)-thiazol-2-yl]-amide | 95 mg, 80% | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)NC(=O)C1CCC1 | C17H20N2OS
